US05856529
Step 2: (2,3-Dihydrobenzofuran-4-yl)methanol
A solution of 2,3-dihydrobenzofuran-4-carboxylic acid (10 g, 61 mmol) in THF (100 mL) was stirred as LAH (4.64 g, 122 mmol) was slowly added. The mixture was heated to reflux for 30 min. The mixture was cooled and quenched cautiously with ethyl acetate and then with 1N HCl (150 mL). The mixture was then made acidic with 12N HCl until all the inorganic precipitate dissolved. The organic layer was separated, and the inorganic layer was extracted twice with ethyl acetate. The organic layers were combined, washed twice with brine, and then concentrated in vacuo. This oil was Kugelrohr distilled to a clear oil that crystallized upon cooling (8.53 g, 87.6%).

reactant | 2,3-dihydrobenzofuran-4-carboxylic acid | 61 mmol, 10 g | O1CCC=2C1=CC=CC2C(=O)O | C9H8O3
reactant | LAH | 122 mmol, 4.64 g | [H-].[H-].[H-].[H-].[Li+].[Al+3]
solvent | THF | 100 mL | C1CCOC1 | C4H8O
product | (2,3-Dihydrobenzofuran-4-yl)methanol | O1CCC2=C1C=CC=C2CO | C9H10O2
